US05242945
To a stirring solution of 1.07 g (10.72 mmol) of tetronic acid in 30 mL of dimethylformamide is added 1.64 mL (11.97 mmol) of triethylamine and 428 mg of 4-dimethylaminopyridine at 0° C. Next, 2.44 g (12.77 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 3.0 g (11.79 mmol) of palmitoleic acid are added and the reaction is stirred for 3 days at room temperature. The reaction is acidified with 1.0N HCl and extracted with four 100 mL portions of ethyl acetate. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording crude compound. Pure material was obtained by flash chromatography with 10% methanol/ethyl acetate as eluant affording 1.3 g (36%) of 4-hydroxy-3-((Z)-1-oxo-9-hexadecenyl)-2(5H)-furanone.

reactant | tetronic acid | 10.72 mmol, 1.07 g | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 11.97 mmol, 1.64 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.77 mmol, 2.44 g | Cl.CN(CCCN=C=NCC)C
reactant | palmitoleic acid | 11.79 mmol, 3.0 g | C(CCCCCCC\C=C/CCCCCC)(=O)O | C16H30O2
reactant | HCl | 1.0N | Cl | ClH
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 428 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 4-hydroxy-3-((Z)-1-oxo-9-hexadecenyl)-2(5H)-furanone | 1.3 g, 36% | OC1=C(C(OC1)=O)C(CCCCCCC\C=C/CCCCCC)=O | C20H32O4
